* cmp_refine_stable_vt_1.62_85_batch_1
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt_mm
.include /repo/v2/analog/adc/adc_blocks.spice
.temp 85
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear klu
VDD vdd 0 1.62
VCLK clk 0 PULSE(0 1.62 200n 1n 1n 250n 625n)
VIP0 sp0 0 PWL(0 0.8108524537037 5.25e-07 0.8108524537037 5.26e-07 0.8108524537037 1.15e-06 0.8108524537037 1.151e-06 0.8116337037037 1.775e-06 0.8116337037037 1.776e-06 0.8116337037037)
VIN0 sn0 0 PWL(0 0.8091475462963 5.25e-07 0.8091475462963 5.26e-07 0.8091475462963 1.15e-06 0.8091475462963 1.151e-06 0.8083662962963 1.775e-06 0.8083662962963 1.776e-06 0.8083662962963)
RP0 sp0 ip0 350
RN0 sn0 inn0 350
XCP0 ip0 0 adc_mim_bank COUNT=4096
XCN0 inn0 0 adc_mim_bank COUNT=4096
XCMP0 ip0 inn0 q0 qb0 clk vdd 0 adc_latched_comparator
CQ0 q0 0 5f
CQB0 qb0 0 5f
.ic V(q0)=0 V(qb0)=1.62
VIP1 sp1 0 PWL(0 0.80927040509259 5.25e-07 0.80927040509259 5.26e-07 0.80927040509259 1.15e-06 0.80927040509259 1.151e-06 0.81005165509259 1.775e-06 0.81005165509259 1.776e-06 0.81005165509259)
VIN1 sn1 0 PWL(0 0.81072959490741 5.25e-07 0.81072959490741 5.26e-07 0.81072959490741 1.15e-06 0.81072959490741 1.151e-06 0.80994834490741 1.775e-06 0.80994834490741 1.776e-06 0.80994834490741)
RP1 sp1 ip1 350
RN1 sn1 inn1 350
XCP1 ip1 0 adc_mim_bank COUNT=4096
XCN1 inn1 0 adc_mim_bank COUNT=4096
XCMP1 ip1 inn1 q1 qb1 clk vdd 0 adc_latched_comparator
CQ1 q1 0 5f
CQB1 qb1 0 5f
.ic V(q1)=0 V(qb1)=1.62
VIP2 sp2 0 PWL(0 0.80934505787037 5.25e-07 0.80934505787037 5.26e-07 0.80934505787037 1.15e-06 0.80934505787037 1.151e-06 0.81012630787037 1.775e-06 0.81012630787037 1.776e-06 0.81012630787037)
VIN2 sn2 0 PWL(0 0.81065494212963 5.25e-07 0.81065494212963 5.26e-07 0.81065494212963 1.15e-06 0.81065494212963 1.151e-06 0.80987369212963 1.775e-06 0.80987369212963 1.776e-06 0.80987369212963)
RP2 sp2 ip2 350
RN2 sn2 inn2 350
XCP2 ip2 0 adc_mim_bank COUNT=4096
XCN2 inn2 0 adc_mim_bank COUNT=4096
XCMP2 ip2 inn2 q2 qb2 clk vdd 0 adc_latched_comparator
CQ2 q2 0 5f
CQB2 qb2 0 5f
.ic V(q2)=0 V(qb2)=1.62
VIP3 sp3 0 PWL(0 0.80949315972222 5.25e-07 0.80949315972222 5.26e-07 0.80949315972222 1.15e-06 0.80949315972222 1.151e-06 0.81027440972222 1.775e-06 0.81027440972222 1.776e-06 0.81027440972222)
VIN3 sn3 0 PWL(0 0.81050684027778 5.25e-07 0.81050684027778 5.26e-07 0.81050684027778 1.15e-06 0.81050684027778 1.151e-06 0.80972559027778 1.775e-06 0.80972559027778 1.776e-06 0.80972559027778)
RP3 sp3 ip3 350
RN3 sn3 inn3 350
XCP3 ip3 0 adc_mim_bank COUNT=4096
XCN3 inn3 0 adc_mim_bank COUNT=4096
XCMP3 ip3 inn3 q3 qb3 clk vdd 0 adc_latched_comparator
CQ3 q3 0 5f
CQB3 qb3 0 5f
.ic V(q3)=0 V(qb3)=1.62
VIP4 sp4 0 PWL(0 0.8101637037037 5.25e-07 0.8101637037037 5.26e-07 0.8101637037037 1.15e-06 0.8101637037037 1.151e-06 0.8109449537037 1.775e-06 0.8109449537037 1.776e-06 0.8109449537037)
VIN4 sn4 0 PWL(0 0.8098362962963 5.25e-07 0.8098362962963 5.26e-07 0.8098362962963 1.15e-06 0.8098362962963 1.151e-06 0.8090550462963 1.775e-06 0.8090550462963 1.776e-06 0.8090550462963)
RP4 sp4 ip4 350
RN4 sn4 inn4 350
XCP4 ip4 0 adc_mim_bank COUNT=4096
XCN4 inn4 0 adc_mim_bank COUNT=4096
XCMP4 ip4 inn4 q4 qb4 clk vdd 0 adc_latched_comparator
CQ4 q4 0 5f
CQB4 qb4 0 5f
.ic V(q4)=0 V(qb4)=1.62
VIP5 sp5 0 PWL(0 0.81165152777778 5.25e-07 0.81165152777778 5.26e-07 0.81165152777778 1.15e-06 0.81165152777778 1.151e-06 0.81243277777778 1.775e-06 0.81243277777778 1.776e-06 0.81243277777778)
VIN5 sn5 0 PWL(0 0.80834847222222 5.25e-07 0.80834847222222 5.26e-07 0.80834847222222 1.15e-06 0.80834847222222 1.151e-06 0.80756722222222 1.775e-06 0.80756722222222 1.776e-06 0.80756722222222)
RP5 sp5 ip5 350
RN5 sn5 inn5 350
XCP5 ip5 0 adc_mim_bank COUNT=4096
XCN5 inn5 0 adc_mim_bank COUNT=4096
XCMP5 ip5 inn5 q5 qb5 clk vdd 0 adc_latched_comparator
CQ5 q5 0 5f
CQB5 qb5 0 5f
.ic V(q5)=0 V(qb5)=1.62
VIP6 sp6 0 PWL(0 0.80923149305556 5.25e-07 0.80923149305556 5.26e-07 0.80923149305556 1.15e-06 0.80923149305556 1.151e-06 0.81001274305556 1.775e-06 0.81001274305556 1.776e-06 0.81001274305556)
VIN6 sn6 0 PWL(0 0.81076850694444 5.25e-07 0.81076850694444 5.26e-07 0.81076850694444 1.15e-06 0.81076850694444 1.151e-06 0.80998725694444 1.775e-06 0.80998725694444 1.776e-06 0.80998725694444)
RP6 sp6 ip6 350
RN6 sn6 inn6 350
XCP6 ip6 0 adc_mim_bank COUNT=4096
XCN6 inn6 0 adc_mim_bank COUNT=4096
XCMP6 ip6 inn6 q6 qb6 clk vdd 0 adc_latched_comparator
CQ6 q6 0 5f
CQB6 qb6 0 5f
.ic V(q6)=0 V(qb6)=1.62
VIP7 sp7 0 PWL(0 0.80985649305556 5.25e-07 0.80985649305556 5.26e-07 0.80985649305556 1.15e-06 0.80985649305556 1.151e-06 0.81063774305556 1.775e-06 0.81063774305556 1.776e-06 0.81063774305556)
VIN7 sn7 0 PWL(0 0.81014350694444 5.25e-07 0.81014350694444 5.26e-07 0.81014350694444 1.15e-06 0.81014350694444 1.151e-06 0.80936225694444 1.775e-06 0.80936225694444 1.776e-06 0.80936225694444)
RP7 sp7 ip7 350
RN7 sn7 inn7 350
XCP7 ip7 0 adc_mim_bank COUNT=4096
XCN7 inn7 0 adc_mim_bank COUNT=4096
XCMP7 ip7 inn7 q7 qb7 clk vdd 0 adc_latched_comparator
CQ7 q7 0 5f
CQB7 qb7 0 5f
.ic V(q7)=0 V(qb7)=1.62
VIP8 sp8 0 PWL(0 0.80938982638889 5.25e-07 0.80938982638889 5.26e-07 0.80938982638889 1.15e-06 0.80938982638889 1.151e-06 0.81017107638889 1.775e-06 0.81017107638889 1.776e-06 0.81017107638889)
VIN8 sn8 0 PWL(0 0.81061017361111 5.25e-07 0.81061017361111 5.26e-07 0.81061017361111 1.15e-06 0.81061017361111 1.151e-06 0.80982892361111 1.775e-06 0.80982892361111 1.776e-06 0.80982892361111)
RP8 sp8 ip8 350
RN8 sn8 inn8 350
XCP8 ip8 0 adc_mim_bank COUNT=4096
XCN8 inn8 0 adc_mim_bank COUNT=4096
XCMP8 ip8 inn8 q8 qb8 clk vdd 0 adc_latched_comparator
CQ8 q8 0 5f
CQB8 qb8 0 5f
.ic V(q8)=0 V(qb8)=1.62
VIP9 sp9 0 PWL(0 0.81106111111111 5.25e-07 0.81106111111111 5.26e-07 0.81106111111111 1.15e-06 0.81106111111111 1.151e-06 0.81184236111111 1.775e-06 0.81184236111111 1.776e-06 0.81184236111111)
VIN9 sn9 0 PWL(0 0.80893888888889 5.25e-07 0.80893888888889 5.26e-07 0.80893888888889 1.15e-06 0.80893888888889 1.151e-06 0.80815763888889 1.775e-06 0.80815763888889 1.776e-06 0.80815763888889)
RP9 sp9 ip9 350
RN9 sn9 inn9 350
XCP9 ip9 0 adc_mim_bank COUNT=4096
XCN9 inn9 0 adc_mim_bank COUNT=4096
XCMP9 ip9 inn9 q9 qb9 clk vdd 0 adc_latched_comparator
CQ9 q9 0 5f
CQB9 qb9 0 5f
.ic V(q9)=0 V(qb9)=1.62
VIP10 sp10 0 PWL(0 0.80870763888889 5.25e-07 0.80870763888889 5.26e-07 0.80870763888889 1.15e-06 0.80870763888889 1.151e-06 0.80948888888889 1.775e-06 0.80948888888889 1.776e-06 0.80948888888889)
VIN10 sn10 0 PWL(0 0.81129236111111 5.25e-07 0.81129236111111 5.26e-07 0.81129236111111 1.15e-06 0.81129236111111 1.151e-06 0.81051111111111 1.775e-06 0.81051111111111 1.776e-06 0.81051111111111)
RP10 sp10 ip10 350
RN10 sn10 inn10 350
XCP10 ip10 0 adc_mim_bank COUNT=4096
XCN10 inn10 0 adc_mim_bank COUNT=4096
XCMP10 ip10 inn10 q10 qb10 clk vdd 0 adc_latched_comparator
CQ10 q10 0 5f
CQB10 qb10 0 5f
.ic V(q10)=0 V(qb10)=1.62
VIP11 sp11 0 PWL(0 0.80741513888889 5.25e-07 0.80741513888889 5.26e-07 0.80741513888889 1.15e-06 0.80741513888889 1.151e-06 0.80819638888889 1.775e-06 0.80819638888889 1.776e-06 0.80819638888889)
VIN11 sn11 0 PWL(0 0.81258486111111 5.25e-07 0.81258486111111 5.26e-07 0.81258486111111 1.15e-06 0.81258486111111 1.151e-06 0.81180361111111 1.775e-06 0.81180361111111 1.776e-06 0.81180361111111)
RP11 sp11 ip11 350
RN11 sn11 inn11 350
XCP11 ip11 0 adc_mim_bank COUNT=4096
XCN11 inn11 0 adc_mim_bank COUNT=4096
XCMP11 ip11 inn11 q11 qb11 clk vdd 0 adc_latched_comparator
CQ11 q11 0 5f
CQB11 qb11 0 5f
.ic V(q11)=0 V(qb11)=1.62
VIP12 sp12 0 PWL(0 0.80912158564815 5.25e-07 0.80912158564815 5.26e-07 0.80912158564815 1.15e-06 0.80912158564815 1.151e-06 0.80990283564815 1.775e-06 0.80990283564815 1.776e-06 0.80990283564815)
VIN12 sn12 0 PWL(0 0.81087841435185 5.25e-07 0.81087841435185 5.26e-07 0.81087841435185 1.15e-06 0.81087841435185 1.151e-06 0.81009716435185 1.775e-06 0.81009716435185 1.776e-06 0.81009716435185)
RP12 sp12 ip12 350
RN12 sn12 inn12 350
XCP12 ip12 0 adc_mim_bank COUNT=4096
XCN12 inn12 0 adc_mim_bank COUNT=4096
XCMP12 ip12 inn12 q12 qb12 clk vdd 0 adc_latched_comparator
CQ12 q12 0 5f
CQB12 qb12 0 5f
.ic V(q12)=0 V(qb12)=1.62
VIP13 sp13 0 PWL(0 0.81077041666667 5.25e-07 0.81077041666667 5.26e-07 0.81077041666667 1.15e-06 0.81077041666667 1.151e-06 0.81155166666667 1.775e-06 0.81155166666667 1.776e-06 0.81155166666667)
VIN13 sn13 0 PWL(0 0.80922958333333 5.25e-07 0.80922958333333 5.26e-07 0.80922958333333 1.15e-06 0.80922958333333 1.151e-06 0.80844833333333 1.775e-06 0.80844833333333 1.776e-06 0.80844833333333)
RP13 sp13 ip13 350
RN13 sn13 inn13 350
XCP13 ip13 0 adc_mim_bank COUNT=4096
XCN13 inn13 0 adc_mim_bank COUNT=4096
XCMP13 ip13 inn13 q13 qb13 clk vdd 0 adc_latched_comparator
CQ13 q13 0 5f
CQB13 qb13 0 5f
.ic V(q13)=0 V(qb13)=1.62
VIP14 sp14 0 PWL(0 0.81069444444444 5.25e-07 0.81069444444444 5.26e-07 0.81069444444444 1.15e-06 0.81069444444444 1.151e-06 0.81147569444444 1.775e-06 0.81147569444444 1.776e-06 0.81147569444444)
VIN14 sn14 0 PWL(0 0.80930555555556 5.25e-07 0.80930555555556 5.26e-07 0.80930555555556 1.15e-06 0.80930555555556 1.151e-06 0.80852430555556 1.775e-06 0.80852430555556 1.776e-06 0.80852430555556)
RP14 sp14 ip14 350
RN14 sn14 inn14 350
XCP14 ip14 0 adc_mim_bank COUNT=4096
XCN14 inn14 0 adc_mim_bank COUNT=4096
XCMP14 ip14 inn14 q14 qb14 clk vdd 0 adc_latched_comparator
CQ14 q14 0 5f
CQB14 qb14 0 5f
.ic V(q14)=0 V(qb14)=1.62
VIP15 sp15 0 PWL(0 0.80831564814815 5.25e-07 0.80831564814815 5.26e-07 0.80831564814815 1.15e-06 0.80831564814815 1.151e-06 0.80909689814815 1.775e-06 0.80909689814815 1.776e-06 0.80909689814815)
VIN15 sn15 0 PWL(0 0.81168435185185 5.25e-07 0.81168435185185 5.26e-07 0.81168435185185 1.15e-06 0.81168435185185 1.151e-06 0.81090310185185 1.775e-06 0.81090310185185 1.776e-06 0.81090310185185)
RP15 sp15 ip15 350
RN15 sn15 inn15 350
XCP15 ip15 0 adc_mim_bank COUNT=4096
XCN15 inn15 0 adc_mim_bank COUNT=4096
XCMP15 ip15 inn15 q15 qb15 clk vdd 0 adc_latched_comparator
CQ15 q15 0 5f
CQB15 qb15 0 5f
.ic V(q15)=0 V(qb15)=1.62
VIP16 sp16 0 PWL(0 0.81216513888889 5.25e-07 0.81216513888889 5.26e-07 0.81216513888889 1.15e-06 0.81216513888889 1.151e-06 0.81294638888889 1.775e-06 0.81294638888889 1.776e-06 0.81294638888889)
VIN16 sn16 0 PWL(0 0.80783486111111 5.25e-07 0.80783486111111 5.26e-07 0.80783486111111 1.15e-06 0.80783486111111 1.151e-06 0.80705361111111 1.775e-06 0.80705361111111 1.776e-06 0.80705361111111)
RP16 sp16 ip16 350
RN16 sn16 inn16 350
XCP16 ip16 0 adc_mim_bank COUNT=4096
XCN16 inn16 0 adc_mim_bank COUNT=4096
XCMP16 ip16 inn16 q16 qb16 clk vdd 0 adc_latched_comparator
CQ16 q16 0 5f
CQB16 qb16 0 5f
.ic V(q16)=0 V(qb16)=1.62
VIP17 sp17 0 PWL(0 0.80798111111111 5.25e-07 0.80798111111111 5.26e-07 0.80798111111111 1.15e-06 0.80798111111111 1.151e-06 0.80876236111111 1.775e-06 0.80876236111111 1.776e-06 0.80876236111111)
VIN17 sn17 0 PWL(0 0.81201888888889 5.25e-07 0.81201888888889 5.26e-07 0.81201888888889 1.15e-06 0.81201888888889 1.151e-06 0.81123763888889 1.775e-06 0.81123763888889 1.776e-06 0.81123763888889)
RP17 sp17 ip17 350
RN17 sn17 inn17 350
XCP17 ip17 0 adc_mim_bank COUNT=4096
XCN17 inn17 0 adc_mim_bank COUNT=4096
XCMP17 ip17 inn17 q17 qb17 clk vdd 0 adc_latched_comparator
CQ17 q17 0 5f
CQB17 qb17 0 5f
.ic V(q17)=0 V(qb17)=1.62
VIP18 sp18 0 PWL(0 0.8094491087963 5.25e-07 0.8094491087963 5.26e-07 0.8094491087963 1.15e-06 0.8094491087963 1.151e-06 0.8102303587963 1.775e-06 0.8102303587963 1.776e-06 0.8102303587963)
VIN18 sn18 0 PWL(0 0.8105508912037 5.25e-07 0.8105508912037 5.26e-07 0.8105508912037 1.15e-06 0.8105508912037 1.151e-06 0.8097696412037 1.775e-06 0.8097696412037 1.776e-06 0.8097696412037)
RP18 sp18 ip18 350
RN18 sn18 inn18 350
XCP18 ip18 0 adc_mim_bank COUNT=4096
XCN18 inn18 0 adc_mim_bank COUNT=4096
XCMP18 ip18 inn18 q18 qb18 clk vdd 0 adc_latched_comparator
CQ18 q18 0 5f
CQB18 qb18 0 5f
.ic V(q18)=0 V(qb18)=1.62
VIP19 sp19 0 PWL(0 0.80920392361111 5.25e-07 0.80920392361111 5.26e-07 0.80920392361111 1.15e-06 0.80920392361111 1.151e-06 0.80998517361111 1.775e-06 0.80998517361111 1.776e-06 0.80998517361111)
VIN19 sn19 0 PWL(0 0.81079607638889 5.25e-07 0.81079607638889 5.26e-07 0.81079607638889 1.15e-06 0.81079607638889 1.151e-06 0.81001482638889 1.775e-06 0.81001482638889 1.776e-06 0.81001482638889)
RP19 sp19 ip19 350
RN19 sn19 inn19 350
XCP19 ip19 0 adc_mim_bank COUNT=4096
XCN19 inn19 0 adc_mim_bank COUNT=4096
XCMP19 ip19 inn19 q19 qb19 clk vdd 0 adc_latched_comparator
CQ19 q19 0 5f
CQB19 qb19 0 5f
.ic V(q19)=0 V(qb19)=1.62
VIP20 sp20 0 PWL(0 0.80982892361111 5.25e-07 0.80982892361111 5.26e-07 0.80982892361111 1.15e-06 0.80982892361111 1.151e-06 0.81061017361111 1.775e-06 0.81061017361111 1.776e-06 0.81061017361111)
VIN20 sn20 0 PWL(0 0.81017107638889 5.25e-07 0.81017107638889 5.26e-07 0.81017107638889 1.15e-06 0.81017107638889 1.151e-06 0.80938982638889 1.775e-06 0.80938982638889 1.776e-06 0.80938982638889)
RP20 sp20 ip20 350
RN20 sn20 inn20 350
XCP20 ip20 0 adc_mim_bank COUNT=4096
XCN20 inn20 0 adc_mim_bank COUNT=4096
XCMP20 ip20 inn20 q20 qb20 clk vdd 0 adc_latched_comparator
CQ20 q20 0 5f
CQB20 qb20 0 5f
.ic V(q20)=0 V(qb20)=1.62
VIP21 sp21 0 PWL(0 0.80946899305556 5.25e-07 0.80946899305556 5.26e-07 0.80946899305556 1.15e-06 0.80946899305556 1.151e-06 0.81025024305556 1.775e-06 0.81025024305556 1.776e-06 0.81025024305556)
VIN21 sn21 0 PWL(0 0.81053100694444 5.25e-07 0.81053100694444 5.26e-07 0.81053100694444 1.15e-06 0.81053100694444 1.151e-06 0.80974975694444 1.775e-06 0.80974975694444 1.776e-06 0.80974975694444)
RP21 sp21 ip21 350
RN21 sn21 inn21 350
XCP21 ip21 0 adc_mim_bank COUNT=4096
XCN21 inn21 0 adc_mim_bank COUNT=4096
XCMP21 ip21 inn21 q21 qb21 clk vdd 0 adc_latched_comparator
CQ21 q21 0 5f
CQB21 qb21 0 5f
.ic V(q21)=0 V(qb21)=1.62
VIP22 sp22 0 PWL(0 0.80936677083333 5.25e-07 0.80936677083333 5.26e-07 0.80936677083333 1.15e-06 0.80936677083333 1.151e-06 0.81014802083333 1.775e-06 0.81014802083333 1.776e-06 0.81014802083333)
VIN22 sn22 0 PWL(0 0.81063322916667 5.25e-07 0.81063322916667 5.26e-07 0.81063322916667 1.15e-06 0.81063322916667 1.151e-06 0.80985197916667 1.775e-06 0.80985197916667 1.776e-06 0.80985197916667)
RP22 sp22 ip22 350
RN22 sn22 inn22 350
XCP22 ip22 0 adc_mim_bank COUNT=4096
XCN22 inn22 0 adc_mim_bank COUNT=4096
XCMP22 ip22 inn22 q22 qb22 clk vdd 0 adc_latched_comparator
CQ22 q22 0 5f
CQB22 qb22 0 5f
.ic V(q22)=0 V(qb22)=1.62
VIP23 sp23 0 PWL(0 0.81053643518519 5.25e-07 0.81053643518519 5.26e-07 0.81053643518519 1.15e-06 0.81053643518519 1.151e-06 0.81131768518519 1.775e-06 0.81131768518519 1.776e-06 0.81131768518519)
VIN23 sn23 0 PWL(0 0.80946356481481 5.25e-07 0.80946356481481 5.26e-07 0.80946356481481 1.15e-06 0.80946356481481 1.151e-06 0.80868231481481 1.775e-06 0.80868231481481 1.776e-06 0.80868231481481)
RP23 sp23 ip23 350
RN23 sn23 inn23 350
XCP23 ip23 0 adc_mim_bank COUNT=4096
XCN23 inn23 0 adc_mim_bank COUNT=4096
XCMP23 ip23 inn23 q23 qb23 clk vdd 0 adc_latched_comparator
CQ23 q23 0 5f
CQB23 qb23 0 5f
.ic V(q23)=0 V(qb23)=1.62
VIP24 sp24 0 PWL(0 0.80950934027778 5.25e-07 0.80950934027778 5.26e-07 0.80950934027778 1.15e-06 0.80950934027778 1.151e-06 0.81029059027778 1.775e-06 0.81029059027778 1.776e-06 0.81029059027778)
VIN24 sn24 0 PWL(0 0.81049065972222 5.25e-07 0.81049065972222 5.26e-07 0.81049065972222 1.15e-06 0.81049065972222 1.151e-06 0.80970940972222 1.775e-06 0.80970940972222 1.776e-06 0.80970940972222)
RP24 sp24 ip24 350
RN24 sn24 inn24 350
XCP24 ip24 0 adc_mim_bank COUNT=4096
XCN24 inn24 0 adc_mim_bank COUNT=4096
XCMP24 ip24 inn24 q24 qb24 clk vdd 0 adc_latched_comparator
CQ24 q24 0 5f
CQB24 qb24 0 5f
.ic V(q24)=0 V(qb24)=1.62
.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
setseed 1309201
reset
tran 1n 2.425e-06
meas tran s0_k0_q find v(q0) at=1.05e-06
meas tran s0_k0_qb find v(qb0) at=1.05e-06
meas tran s0_k1_q find v(q0) at=2.3e-06
meas tran s0_k1_qb find v(qb0) at=2.3e-06
meas tran s1_k0_q find v(q1) at=1.05e-06
meas tran s1_k0_qb find v(qb1) at=1.05e-06
meas tran s1_k1_q find v(q1) at=2.3e-06
meas tran s1_k1_qb find v(qb1) at=2.3e-06
meas tran s2_k0_q find v(q2) at=1.05e-06
meas tran s2_k0_qb find v(qb2) at=1.05e-06
meas tran s2_k1_q find v(q2) at=2.3e-06
meas tran s2_k1_qb find v(qb2) at=2.3e-06
meas tran s3_k0_q find v(q3) at=1.05e-06
meas tran s3_k0_qb find v(qb3) at=1.05e-06
meas tran s3_k1_q find v(q3) at=2.3e-06
meas tran s3_k1_qb find v(qb3) at=2.3e-06
meas tran s4_k0_q find v(q4) at=1.05e-06
meas tran s4_k0_qb find v(qb4) at=1.05e-06
meas tran s4_k1_q find v(q4) at=2.3e-06
meas tran s4_k1_qb find v(qb4) at=2.3e-06
meas tran s5_k0_q find v(q5) at=1.05e-06
meas tran s5_k0_qb find v(qb5) at=1.05e-06
meas tran s5_k1_q find v(q5) at=2.3e-06
meas tran s5_k1_qb find v(qb5) at=2.3e-06
meas tran s6_k0_q find v(q6) at=1.05e-06
meas tran s6_k0_qb find v(qb6) at=1.05e-06
meas tran s6_k1_q find v(q6) at=2.3e-06
meas tran s6_k1_qb find v(qb6) at=2.3e-06
meas tran s7_k0_q find v(q7) at=1.05e-06
meas tran s7_k0_qb find v(qb7) at=1.05e-06
meas tran s7_k1_q find v(q7) at=2.3e-06
meas tran s7_k1_qb find v(qb7) at=2.3e-06
meas tran s8_k0_q find v(q8) at=1.05e-06
meas tran s8_k0_qb find v(qb8) at=1.05e-06
meas tran s8_k1_q find v(q8) at=2.3e-06
meas tran s8_k1_qb find v(qb8) at=2.3e-06
meas tran s9_k0_q find v(q9) at=1.05e-06
meas tran s9_k0_qb find v(qb9) at=1.05e-06
meas tran s9_k1_q find v(q9) at=2.3e-06
meas tran s9_k1_qb find v(qb9) at=2.3e-06
meas tran s10_k0_q find v(q10) at=1.05e-06
meas tran s10_k0_qb find v(qb10) at=1.05e-06
meas tran s10_k1_q find v(q10) at=2.3e-06
meas tran s10_k1_qb find v(qb10) at=2.3e-06
meas tran s11_k0_q find v(q11) at=1.05e-06
meas tran s11_k0_qb find v(qb11) at=1.05e-06
meas tran s11_k1_q find v(q11) at=2.3e-06
meas tran s11_k1_qb find v(qb11) at=2.3e-06
meas tran s12_k0_q find v(q12) at=1.05e-06
meas tran s12_k0_qb find v(qb12) at=1.05e-06
meas tran s12_k1_q find v(q12) at=2.3e-06
meas tran s12_k1_qb find v(qb12) at=2.3e-06
meas tran s13_k0_q find v(q13) at=1.05e-06
meas tran s13_k0_qb find v(qb13) at=1.05e-06
meas tran s13_k1_q find v(q13) at=2.3e-06
meas tran s13_k1_qb find v(qb13) at=2.3e-06
meas tran s14_k0_q find v(q14) at=1.05e-06
meas tran s14_k0_qb find v(qb14) at=1.05e-06
meas tran s14_k1_q find v(q14) at=2.3e-06
meas tran s14_k1_qb find v(qb14) at=2.3e-06
meas tran s15_k0_q find v(q15) at=1.05e-06
meas tran s15_k0_qb find v(qb15) at=1.05e-06
meas tran s15_k1_q find v(q15) at=2.3e-06
meas tran s15_k1_qb find v(qb15) at=2.3e-06
meas tran s16_k0_q find v(q16) at=1.05e-06
meas tran s16_k0_qb find v(qb16) at=1.05e-06
meas tran s16_k1_q find v(q16) at=2.3e-06
meas tran s16_k1_qb find v(qb16) at=2.3e-06
meas tran s17_k0_q find v(q17) at=1.05e-06
meas tran s17_k0_qb find v(qb17) at=1.05e-06
meas tran s17_k1_q find v(q17) at=2.3e-06
meas tran s17_k1_qb find v(qb17) at=2.3e-06
meas tran s18_k0_q find v(q18) at=1.05e-06
meas tran s18_k0_qb find v(qb18) at=1.05e-06
meas tran s18_k1_q find v(q18) at=2.3e-06
meas tran s18_k1_qb find v(qb18) at=2.3e-06
meas tran s19_k0_q find v(q19) at=1.05e-06
meas tran s19_k0_qb find v(qb19) at=1.05e-06
meas tran s19_k1_q find v(q19) at=2.3e-06
meas tran s19_k1_qb find v(qb19) at=2.3e-06
meas tran s20_k0_q find v(q20) at=1.05e-06
meas tran s20_k0_qb find v(qb20) at=1.05e-06
meas tran s20_k1_q find v(q20) at=2.3e-06
meas tran s20_k1_qb find v(qb20) at=2.3e-06
meas tran s21_k0_q find v(q21) at=1.05e-06
meas tran s21_k0_qb find v(qb21) at=1.05e-06
meas tran s21_k1_q find v(q21) at=2.3e-06
meas tran s21_k1_qb find v(qb21) at=2.3e-06
meas tran s22_k0_q find v(q22) at=1.05e-06
meas tran s22_k0_qb find v(qb22) at=1.05e-06
meas tran s22_k1_q find v(q22) at=2.3e-06
meas tran s22_k1_qb find v(qb22) at=2.3e-06
meas tran s23_k0_q find v(q23) at=1.05e-06
meas tran s23_k0_qb find v(qb23) at=1.05e-06
meas tran s23_k1_q find v(q23) at=2.3e-06
meas tran s23_k1_qb find v(qb23) at=2.3e-06
meas tran s24_k0_q find v(q24) at=1.05e-06
meas tran s24_k0_qb find v(qb24) at=1.05e-06
meas tran s24_k1_q find v(q24) at=2.3e-06
meas tran s24_k1_qb find v(qb24) at=2.3e-06
quit
.endc
.end
